US07985759B2
Adamantanone (12 g, 80 mmol) was added under stirring to nitric acid (98%, 100 mL) at ice bath temperature over a period of 15 minutes. The reaction mixture was stirred at room temperature for 72 h and then heated to 60° C., for 2 h until most of the nitrogen dioxide evaporated. Excess nitric acid was distilled off under reduced pressure. The light yellow oil solidified upon cooling (NO3 adduct of the hydroxyketone). Water (40 mL) and conc. H2SO4 (98%, 15 mL) were added. The resulting clear yellow solution was heated on the steam bath in a hood (nitrous fumes) for 1 h. The solution was then cooled and extracted with a 2:1 mixture of n-hexane and diethylether to remove unreacted adamantanone (1.0 g). The acid layer was neutralized with 30% aq. NaOH solution, and while warm, extracted with chloroform. The extracts were combined, washed with brine solution, and concentrated in vacuum. The crude product was dissolved in CH2Cl2 (15 mL) and hexane was added until no more precipitate was formed. The solid material was isolated by filtration and dried to get 5-hydroxy-adamantan-2-one. Yield: 9.0 g (70%). Solid; M.R: 278.8-300° C. (decomposes) m/z (M+1) 167; 1H NMR (CDCl3) 300 MHz δ 2.70-2.55 (m, 2H), 2.36-2.32 (m, 1H), 2.11-1.93 (m, 10H). 13C NMR (CDCl3) 75 MHz δ 217.0, 66.7, 46.7, 46.6, 44.7 (2C), 43.8, 37.9 (2C), 29.5.

reactant | Adamantanone | 80 mmol, 12 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | nitrogen dioxide | [N+](=O)[O-] | NO2
solvent | nitric acid | 100 mL | [N+](=O)(O)[O-] | HNO3
product | 5-hydroxy-adamantan-2-one | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
